US07906517B2
{2-[(3,5-Bis-trifluoromethyl-benzylamino)-methyl]-4-trifluoromethyl-phenyl}-ethyl-(2-methoxy-ethyl)-amine (3.37 g), 5-bromo-2-chloropyrimidine (2.6 g) and N-ethyldiisopropylamine (3.51 ml) are dissolved in toluene (50 ml) and the mixture is stirred at 120° C. overnight. The reaction solution is cooled to room temperature, and thereto are added ethyl acetate and water and the mixture is separated, and the organic layer is washed with a saturated brine, and the mixture is dried over magnesium sulfate and is concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (hexane:ethyl acetate=1:0→19:1) to give (3,5-bis-trifluoromethyl-benzyl)-(5-bromopyrimidin-2-yl)-{2-[ethyl-(2-methoxy-ethyl)-amino]-5-trifluoromethyl-benzyl}-amine (4.06 g). MS (m/z): 659/661 [M+H]+

reactant | {2-[(3,5-Bis-trifluoromethyl-benzylamino)-methyl]-4-trifluoromethyl-phenyl}-ethyl-(2-methoxy-ethyl)-amine | 3.37 g | FC(C=1C=C(CNCC2=C(C=CC(=C2)C(F)(F)F)N(CCOC)CC)C=C(C1)C(F)(F)F)(F)F | C22H23F9N2O
reactant | 5-bromo-2-chloropyrimidine | 2.6 g | BrC=1C=NC(=NC1)Cl | C4H2BrClN2
reactant | N-ethyldiisopropylamine | 3.51 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | (3,5-bis-trifluoromethyl-benzyl)-(5-bromopyrimidin-2-yl)-{2-[ethyl-(2-methoxy-ethyl)-amino]-5-trifluoromethyl-benzyl}-amine | 4.06 g | FC(C=1C=C(CN(CC2=C(C=CC(=C2)C(F)(F)F)N(CCOC)CC)C2=NC=C(C=N2)Br)C=C(C1)C(F)(F)F)(F)F | C26H24BrF9N4O
